US06670379B2
To a suspension of palladium(II)acetate (0.77 g, 3.42 mmol) in N,N-dimethylacetamide (375 ml) are added tetraethylammonium chloride (19.36 g, 114.5 mmol), dicyclohexyl methyl amine (35.1 g, 174.5 mmol), and 3-bromo-4-methoxybenzonitrile (25.51 g, 118.0 mmol) under a nitrogen atmosphere. The suspension is heated to 100-105° C. whereupon t-butyl acrylate (14.82 g, 114.5 mmol) is slowly added over a period of 45 min. After a further 30-60 min stirring at 100° C., the solution is cooled to room temperature and diluted with TBME (375 ml). The resulting biphasic mixture is stirred vigorously for 10 min. The (upper) TBME phase is successively washed with water (100 ml), 10% aq. citric acid (100 ml) and 25% aq. NaCl (100 ml). The combined aqueous phases are extracted with TBME (100 ml). After adding active charcoal (0.4 g), the combined TBME phases are stirred vigorously for 10 min and filtered. Anhydrous Na2SO4 (10 g) is added and the resulting suspension is stirred for another 10 min and filtered. The filtrate is concentrated to a volume of 50-70 ml under reduced pressure and, over a period of 25-30 min, added at room temperature to anhydrous trifluoroacetic acid (150 ml). The resulting solution is stirred at room temperature for 60 min (precipitation forms), cooled to 0-5° C. in an ice bath, and diluted with ethyl acetate (410 ml). After stirring vigorously at 0° C. for an additional 60 min, the suspension is filtered. The residue is dried under vacuum at 45-50° C. to give (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid as a crystalline solid, mp. 252-253° C. MS (ES): [M−H]−202.

reactant | dicyclohexyl methyl amine | 174.5 mmol, 35.1 g | C1(CCCCC1)N(C)C1CCCCC1 | C13H25N
reactant | 3-bromo-4-methoxybenzonitrile | 118.0 mmol, 25.51 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | t-butyl acrylate | 114.5 mmol, 14.82 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | N,N-dimethylacetamide | 375 ml | CN(C(C)=O)C | C4H9NO
catalyst | tetraethylammonium chloride | 114.5 mmol, 19.36 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | TBME | 375 ml | CC(C)(C)OC | C5H12O
catalyst | palladium(II)acetate | 3.42 mmol, 0.77 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)O)OC | C11H9NO3
